US04041079
In a mixture of 1 volume part of acetone and 10 volume parts of ethanol, there is dissolved 0.100 part of 3,4-dihydro-2-amino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide and with the addition of 0.0115 part of platinum dioxide and 0.038 part of anhydrous sodium acetate, catalytic reduction is carried out in a current of hydrogen gas. After a substantially stoichiometric amount of hydrogen gas has been absorbed, 0.4 volume part of a 48 % aqueous solution of hydrogen bromide is added. The mixture is filtered and the filtrate is concentrated. A small amount of ethanol is added to the residue and, after the insolubles are removed, the filtrate is concentrated a second time. Finally the residue is recrystallized from acetone. The procedure gives 1,5,6-trihydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene hydrobromide. Melting point: 167° to 169° C.(decomp.)

reactant | acetone | CC(=O)C | C3H6O
reactant | 3,4-dihydro-2-amino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide | Br.NC1C(C2=CC=C(C(=C2CC1)O)O)=O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | platinum dioxide | [Pt](=O)=O
solvent | ethanol | C(C)O | C2H6O
product | 1,5,6-trihydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.OC1C(CCC2=C(C(=CC=C12)O)O)NC(C)C | InChI=1S/C13H19NO3.BrH/c1-7(2)14-10-5-3-9-8(12(10)16)4-6-11(15)13(9)17;/h4,6-7,10,12,14-17H,3,5H2,1-2H3;1H
